US07582631B2
3-Chloro-1-(2-chloro-pyridin-4-yl)-1 H-indazole
To a solution of 3-chloroindazole (1 g, 6.6 mmol) in methylene chloride (25 mL) and methanol (25 mL) were added 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine (3.6 g, 15 mmol) and copper(II) acetate (1.4 g, 7.5 mmol), followed by triethylamine (2 mL, 15 mmol). The resulting mixture was vigorously stirred at room temperature for 20 h. The reaction was filtered and the gray solid was discarded. The blue filtrate was concentrated in vacuo and the residue was dissolved in methylene chloride and washed with saturated sodium bicarbonate and brine and dried over MgSO4. Flash chromatography of the crude product mixture with 25:10:65 and 35:10:55 EtOAc-CH2Cl2-Hexane gave the title compound as a white solid. MS (ES+): 264.0 [M+H]+.

reactant | 3-chloroindazole | 6.6 mmol, 1 g | ClC1=NNC2=CC=CC=C12 | C7H5ClN2
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 15 mmol, 3.6 g | ClC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
reactant | triethylamine | 15 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 25 mL | CO | CH4O
catalyst | copper(II) acetate | 7.5 mmol, 1.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-Chloro-1-(2-chloro-pyridin-4-yl)-1 H-indazole | ClC1=NN(C2=CC=CC=C12)C1=CC(=NC=C1)Cl | C12H7Cl2N3
